US08471005B2
Analogous to Example 1528b, 2-(3-Nitro-phenyl)-piperazine oxalic acid salt (0.500 g, 1.68 mmol) was reacted with Di-tert-Butyldicarbonate (1.00 mL, 4.35 mmol) to give 2-(3-Nitro-phenyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester (276 mg, 40%). 1H-NMR (CDCl3): 8.22 (s, 1H), 8.14 (d, 1H, J=8.56 Hz), 7.64 (s, 1H), 7.52 (t, 1H, J=8.56 Hz), 5.35 (s, 1H), 4.54 (s, 1H), 3.97 (d, 2H, J=10.13 Hz), 3.36 (m, 1H), 2.94 (s, 2H), 1.48 (s, 9H), 1.44 (s, 9H).

reactant | 2-(3-Nitro-phenyl)-piperazine oxalic acid salt | 1.68 mmol, 0.500 g | C(C(=O)O)(=O)O.[N+](=O)([O-])C=1C=C(C=CC1)C1NCCNC1
reactant | Di-tert-Butyldicarbonate | 4.35 mmol, 1.00 mL | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 2-(3-Nitro-phenyl)-piperazine-1,4-dicarboxylic acid di-tert-butyl ester | 276 mg, 40% | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)[N+](=O)[O-] | C20H29N3O6
